US04421758
Trans-1-{6-[α-(2,4-dichlorobenzyl)-4-methoxybenzyloxy]tetrahydropyran-2-ylmethyl}-1H-1,2,4-triazole
97.5 mg of 1,2,4-triazole and 62 mg of 55% sodium hydride, 142 mg of sodium iodide, 533 mg of trans-6-[α-(2,4-dichlorobenzyl)-4-methoxybenzyloxy]-2-tosyloxymethyltetrahydropyran and 6 ml of dimethylformamide were reacted and treated essentially as described in Example 3(b) and then the product was purified by column chromatography through silica gel eluted with a 1:2 by volume mixture of benzene and ethyl acetate, to give 244 mg of an isomer of lesser polarity, 109 mg of an isomer of greater polarity and 52 mg of a mixture of the two isomers (in which the ratio of the isomers of lesser to greater polarity was about 2:1).

reactant | 1,2,4-triazole | 97.5 mg | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 62 mg | [H-].[Na+]
reactant | sodium iodide | 142 mg | [I-].[Na+]
reactant | trans-6-[α-(2,4-dichlorobenzyl)-4-methoxybenzyloxy]-2-tosyloxymethyltetrahydropyran | 533 mg | ClC1=C(CC(C2=CC=C(C=C2)OC)O[C@H]2CCC[C@@H](O2)COS(=O)(=O)C2=CC=C(C)C=C2)C=CC(=C1)Cl | C28H30Cl2O6S
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | Trans-1-{6-[α-(2,4-dichlorobenzyl)-4-methoxybenzyloxy]tetrahydropyran-2-ylmethyl}-1H-1,2,4-triazole | 52 mg | ClC1=C(CC(C2=CC=C(C=C2)OC)O[C@H]2CCC[C@@H](O2)CN2N=CN=C2)C=CC(=C1)Cl | C23H25Cl2N3O3
